US05218124
B. α-Methyl-4'-(hydroxy)[1,1'-biphenyl]-4-acetic acid
A mixture containing α-methyl-4'-(methoxy)[1,1'-biphenyl]-4-acetic acid, ethyl ester (22.0 g, 77.4 mmol), acetic acid (400 mL) and 48% hydrobromic acid (80 mL) is refluxed for 18 hours. The solution is concentrated under reduced pressure to one-third the volume and the product crystallizes from the solution. The solid is filtered and dried to give a quantitative yield. A portion of this material is recrystallized from acetonitrile and a white solid is obtained, m.p. 205°-206° C. MS (EI m/z): 242 (M)+, (b.p., M-CO2H)+.

reactant | α-methyl-4'-(methoxy)[1,1'-biphenyl]-4-acetic acid, ethyl ester | 77.4 mmol, 22.0 g | CC(C(=O)OCC)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C18H20O3
reactant | hydrobromic acid | 80 mL | Br | BrH
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | α-Methyl-4'-(hydroxy)[1,1'-biphenyl]-4-acetic acid | quantitative yield | CC(C(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C15H14O3
